US07754737B2
Pd(Ph3P)4 in a 500-mL round-bottom flask under N2 atmosphere was treated sequentially with a solution of 1-bromo-3-fluoro-2-iodo-benzene (30 g, 0.1 mol) in toluene (250 mL), a solution of 2N aq Na2CO3 (200 mL) and 3-methyl phenylboronic acid in ethanol (62 mL). This mixture was heated at reflux under N2 for 12 h, then cooled to rt. The mixture was partitioned between water and EtOAc, the combined organic layers were washed with brine, dried over MgSO4, evaporated and purified by column chromatography to give 6-bromo-2-fluoro-3′-methyl-biphenyl (12 g). 1H NMR (400 MHz, CD3OD): 7.03 (m, 2H), 7.48-7.04 (m, 4H), 7.50 (d, 1H).

reactant | 1-bromo-3-fluoro-2-iodo-benzene | 0.1 mol, 30 g | BrC1=C(C(=CC=C1)F)I | C6H3BrFI
reactant | Na2CO3 | 2N, 200 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-methyl phenylboronic acid | CC=1C=C(C=CC1)B(O)O | C7H9BO2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 62 mL | C(C)O | C2H6O
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-bromo-2-fluoro-3′-methyl-biphenyl | 12 g | BrC1=CC=CC(=C1C1=CC(=CC=C1)C)F | C13H10BrF
